US09029405B2
A solution of tert-butyl N-[2-{[tert-butyl(dimethyl)silyl]oxy}-1-(4-{5-[2′-methyl-2-(trifluoromethyl)biphenyl-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)ethyl]-D-alaninate (1.2 g, 0.0017 mol) in THF (25 ml) was added TBAF (50 mg, 0.1 eq) at RT. The reaction mixture was stirred at RT for 30 min and quenched with water, extracted with ethyl acetate and concentrated under reduced pressure. The crude material was purified by column chromatography using chloroform and methanol (90:10) as an eluent to afford tert-butyl N-[2-hydroxy-1-(4-{5-[2′-methyl-2-(trifluoromethyl)biphenyl-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)ethyl]-D-alaninate as brown oil, as mixture of two diastereomers (0.7 g, 77%). The two diastereomers were separated by chromatography (SFC on Chiralpak ADH, 20% Co-solvent: 0.5% DEA in Ethanol, Total Flow: 3 ml/min), with the first eluting isomer Rt at 4.06 min and the second eluting isomer Rt at 5.25 min.

reactant | tert-butyl N-[2-{[tert-butyl(dimethyl)silyl]oxy}-1-(4-{5-[2′-methyl-2-(trifluoromethyl)biphenyl-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)ethyl]-D-alaninate | 0.0017 mol, 1.2 g | [Si](C)(C)(C(C)(C)C)OCC(C1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)C(F)(F)F)N[C@H](C)C(=O)OC(C)(C)C | C37H46F3N3O4Si
reactant | TBAF | 50 mg, 0.1 eq | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | tert-butyl N-[2-hydroxy-1-(4-{5-[2′-methyl-2-(trifluoromethyl)biphenyl-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)ethyl]-D-alaninate | OCC(C1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)C(F)(F)F)N[C@H](C)C(=O)OC(C)(C)C | C31H32F3N3O4
